US03978097
1-Acetoxy-5-isopropoxy-3-methyl-2-pentene
A mixture of 450 g (4.6 mols) of potassium acetate and 637 g (3.6 mols) of 1-chloro-5-isopropoxy-3-methyl-2-pentene in 3000 cc of dimethylformamide is stirred at room temperature for 24 hours and then at 50°C for 4 hours. The reaction mixture is filtered, and solvent is distilled off at 1.4 mm Hg and the residue is fractionally distilled. A cis/trans mixture of 1-acetoxy-5-isopropoxy-3-methyl-2-pentene is obtained. B.P.: 122°-126° /18 mm Hg.

reactant | potassium acetate | 4.6 mols, 450 g | C(C)(=O)[O-].[K+]
reactant | 1-chloro-5-isopropoxy-3-methyl-2-pentene | 3.6 mols, 637 g | ClCC=C(CCOC(C)C)C | C9H17ClO
solvent | dimethylformamide | 3000 cc | CN(C=O)C | C3H7NO
product | 1-Acetoxy-5-isopropoxy-3-methyl-2-pentene | C(C)(=O)OCC=C(CCOC(C)C)C | C11H20O3
